US07696215B2
3-[6-(4-isopropylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-N-isoxazol-3-yl-4-methylbenzamide
To a stirred slurry of 4-methyl-3-[6-(4-isopropylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzoic acid (0.2 g) and DMF (0.05 ml) in methylene chloride (4 ml) at 35° C. was added thionyl chloride (0.20 ml). The resultant green solution was stirred at 40° C. for 18 hours. The reaction mixture was concentrated to give an orange/brown solid. The solid was stirred in methylene chloride (4 ml) at room temperature and 3-aminoisoxazole (0.15 ml) and N,N-diisopropylethylamine (0.26 ml) was added, stirred for 1.5 hours and concentrated. The resultant oil was partitioned between ethyl acetate and saturated NaHCO3 solution. The aqueous layer was separated and the organic layer washed with brine (5 ml). The organic phase was concentrated to give an orange/brown solid. The residue was purified by column chromatography on a silica column using a 9:1 mixture of ethyl acetate and methanol as eluent to give the title compound as a yellow solid (50 mg); NMR Spectrum: (DMSOd6) 1.04 (d, 6H), 2.18 (s, 3H), 2.62 (m, 4H), 2.68 (m, 1H), 3.28 (m, 4H), 7.05 (s, 1H), 7.49 (s, 1H), 7.66 (m, 3H), 8.08 (m, 2H), 8.12 (s, 1H), 8.86 (s, 1H), 11.47 (s, 1H); Mass Spectrum: M+H+ 473.

reactant | 4-methyl-3-[6-(4-isopropylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzoic acid | 0.2 g | CC1=C(C=C(C(=O)O)C=C1)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)C(C)C | C23H26N4O3
reactant | thionyl chloride | 0.20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-aminoisoxazole | 0.15 ml | NC1=NOC=C1 | C3H4N2O
reactant | N,N-diisopropylethylamine | 0.26 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.05 ml | CN(C)C=O | C3H7NO
product | 3-[6-(4-isopropylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-N-isoxazol-3-yl-4-methylbenzamide | 50 mg | C(C)(C)N1CCN(CC1)C=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)NC2=NOC=C2)C=CC1C)=O | C26H28N6O3
